US04783462
5-[3-(2-n-propyl-4-ethoxycarbonylphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone (Compound No. 63)
A mixture comprising 0.82 g of 4-chloro-5-[3-(2-n-propyl-4-ethoxycarbonylphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone (Compound No. 64), 50 ml of ethanol, 1.5 ml of triethylamine and 150 mg of 5% palladium-carbon was subjected to hydrogenation under stirring at a temperature of from 40° to 50° C. for 3 hours. The reaction mixture was filtered, and the filtrate was concentrated. The crude crystals thereby obtained were recrystallized from ethyl ether to obtain 0.58 g of the above identified compound as colorless crystals having a melting point of from 111° to 116° C.

reactant | 4-chloro-5-[3-(2-n-propyl-4-ethoxycarbonylphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone | 0.82 g | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C(=O)OCC)CCC)C(C)C)=O | C22H30ClN3O4
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 150 mg | [C].[Pd]
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
product | 5-[3-(2-n-propyl-4-ethoxycarbonylphenoxy)propylamino]-2-i-propyl-3(2H)pyridazinone | C(CC)C1=C(OCCCNC2=CC(N(N=C2)C(C)C)=O)C=CC(=C1)C(=O)OCC | C22H31N3O4
